datasets/10k_Mayr_OG.csv
SMILES Labelled
"CN(C)C1=CC=C([CH:20]=[C:21]([C:22]#[N:23])[C:32]#[N:33])C=C1.FC(F)(F)[C:84]1=[CH:83][CH:82]=[C:81]([CH-:10][S:61](C2=CC=CC=C2)(=[O:62])=[O:72])[CH:92]=[CH:93]1>>CN(C)C1=CC=C([CH:20]([CH:10]([S:61](C2=CC=CC=C2)(=[O:62])=[O:72])[C:81]2=[CH:82][CH:83]=[C:84](C(F)(F)F)[CH:93]=[CH:92]2)[C:21](=[C:22]=[N-:23])[C:32]#[N:33])C=C1 10=20;20,21=21,22;22,23=23"
"C1=CC=C([S:32]([CH:21]=[CH2:20])(=[O:33])=[O:34])C=C1.C[Si](C)(C)C12[C:62]3([CH:11]=[CH2:10])[Co-3:63]1(C#[O+])(C#[O+])(C#[O+])[Co-3:73]23(C#[O+])(C#[O+])C#[O+]>>C[Si](C)(C)C12[C:62]3([CH+:11][CH2:10][CH2:20][CH-:21][S:32](C4=CC=CC=C4)(=[O:33])=[O:34])[Co-3:63]1(C#[O+])(C#[O+])(C#[O+])[Co-3:73]23(C#[O+])(C#[O+])C#[O+] 10,11=10,20;20,21=21"
"CC[Si:63](CC)(CC)[CH2:62][C:11](C)=[C:10](C)C.CO[C:44]1=[CH:43][CH:42]=[C:41]([CH+:20][C:31]23C4C5C6C2[Fe:32]56432789C3C2C7C8C39)[CH:46]=[CH:45]1>>CC[Si:63](CC)(CC)[CH2:62][C+:11](C)[C:10](C)(C)[CH:20]([C:31]12C3C4C5C1[Fe:32]45321678C2C1C6C7C28)[C:41]1=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]1 10,11=10,20"
"C1=CC=C([N:21]=[C:20]=[N:31]C2=CC=CC=C2)C=C1.C[N:10](C)[NH:61][CH:62]=[O:63]>>C[N+:10](C)([C:20]([N-:21]C1=CC=CC=C1)=[N:31]C1=CC=CC=C1)[NH:61][CH:62]=[O:63] 10=20;20,21=21"
"C[C:11](=[CH2:10])[C:62](C)=[CH2:63].C[C:22](/[CH:21]=[CH:20]/[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)=[O:23]>>C[C+:11]([CH2:10][CH:20]([CH:21]=[C:22](C)[O-:23])[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[C:62](C)=[CH2:63] 10,11=10,20;20,21=21,22;22,23=23"
"CC[O:62]/[C:11](=[CH:10]/[S:71](C1=CC=CC=C1)(=[O:72])=[O:82])[O-:12].F[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[C:44](F)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[C:54](F)[CH:55]=[CH:56]2)[CH:36]=[CH:35]1>>CC[O:62][C:11]([CH:10]([C:20]([C:31]1=[CH:32][CH:33]=[C:34](F)[CH:35]=[CH:36]1)([C:41]1=[CH:42][CH:43]=[C:44](F)[CH:45]=[CH:46]1)[C:51]1=[CH:52][CH:53]=[C:54](F)[CH:55]=[CH:56]1)[S:71](C1=CC=CC=C1)(=[O:72])=[O:82])=[O:12] 10,11=10,20;12=11,12"
"C1CC[N+:21](=[CH:20][C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)CC1.[O+]#C[Mo-3:11]1234(C#[O+])([P+](C5=CC=CC=C5)(C5=CC=CC=C5)C5=CC=CC=C5)([H:10])C5C1C2C3C54>>C1CC[N:21]([CH:20]([H:10])[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)CC1.[O+]#C[Mo-2:11]1234(C#[O+])([P+](C5=CC=CC=C5)(C5=CC=CC=C5)C5=CC=CC=C5)C5C1C2C3C54 10,11=10,20;20,21=21"
"CC(C)[C@@H]1C[N:12]2C3=C(C=CC=C3)[S:62][C:11]2=[N:10][C@@H]1C1=CC=CC=C1.CO[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][C:43]3=[C:44](OCC3)[CH:43]=[CH:44]2)[CH:36]=[CH:35]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([N:10]2[C@H](C3=CC=CC=C3)[C@H](C(C)C)C[N+:12]3=[C:11]2[S:62]C2=C3C=CC=C2)[C:41]2=[CH:42][C:43]3=[C:44](OCC3)[CH:43]=[CH:44]2)[CH:36]=[CH:35]1 10,11=10,20;12=11,12"
"CC1=[N:10]CCC1.[C:20](=[S:21])=[S:31]>>CC1=[N+:10]([C:20]([S-:21])=[S:31])CCC1 10=20;20,21=21"
"CC1(C)[O:62][C:11]([O-:12])=[C:10]([C:91]2=[CH:92][CH:93]=[CH:94][CH:103]=[CH:102]2)[C:72](=[O:73])[O:83]1.CC[O:34][C:32]([C:21](=[CH:20][C:41]1=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]1)[C:22](=[O:23])[O:39]CC)=[O:33]>>CC[O:34][C:32]([C:21]([CH:20]([C:10]1([C:91]2=[CH:92][CH:93]=[CH:94][CH:103]=[CH:102]2)[C:11](=[O:12])[O:62]C(C)(C)[O:83][C:72]1=[O:73])[C:41]1=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]1)=[C:22]([O-:23])[O:39]CC)=[O:33] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1CC[N:12]([C:11]2=[CH:10]C[C:63]3=[C:62]2[CH:73]=[CH:74][CH:65]=[CH:64]3)C1.CO[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][C:43]3=[C:44](OCC3)[CH:43]=[CH:44]2)[CH:36]=[CH:35]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([CH:10]2C[C:63]3=[C:62]([C:11]2=[N+:12]2CCCC2)[CH:73]=[CH:74][CH:65]=[CH:64]3)[C:41]2=[CH:42][C:43]3=[C:44](OCC3)[CH:43]=[CH:44]2)[CH:36]=[CH:35]1 10,11=10,20;12=11,12"
"C1C[N:10]=[C:11]2[N:12](C1)CC[NH:62]2.CC[O:34][C:32]([C:21](=[CH:20][C:41]1=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]1)[C:22](=[O:23])[O:39]CC)=[O:33]>>CC[O:34][C:32]([C:21]([CH:20]([N:10]1CCC[N+:12]2=[C:11]1[NH:62]CC2)[C:41]1=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]1)=[C:22]([O-:23])[O:39]CC)=[O:33] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1CCN(C[C@@H]2CCC[NH:10]2)C1.[O-][N+:22]([C:21]1=[CH:20][C:41]2=[N+:42]([O-])O[N:35]=[C:34]2[N:33]=[CH:32]1)=[O:23]>>[O-][N+:22](=[C:21]1[CH:20]([NH+:10]2CCC[C@H]2CN2CCCC2)[C:41]2=[N+:42]([O-])O[N:35]=[C:34]2[N:33]=[CH:32]1)[O-:23] 10=20;20,21=21,22;22,23=23"
"CC[C:12]1=[C:13](C)[NH:14][CH:10]=[C:11]1C.C[C:22](/[CH:21]=[CH:20]/[C:31]1=[CH:32][CH:33]=[C:34]([N+](=O)[O-])[CH:35]=[CH:36]1)=[O:23]>>CC[C:12]1=[C:11](C)[CH:10]([CH:20]([CH:21]=[C:22](C)[O-:23])[C:31]2=[CH:32][CH:33]=[C:34]([N+](=O)[O-])[CH:35]=[CH:36]2)[NH+:14]=[C:13]1C 10,11=10,20;12,13=11,12;14=13,14;20,21=21,22;22,23=23"
"CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]=[C:21]2[CH:22]=[C:23](Br)[C:24](=[O:25])[C:33](Br)=[CH:32]2)[CH:46]=[CH:45]1.[CH:10]#[C:11][C:62]1=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]1>>CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([CH:10]=[C+:11][C:62]2=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]2)[C:21]2=[CH:22][C:23](Br)=[C:24]([O-:25])[C:33](Br)=[CH:32]2)[CH:46]=[CH:45]1 10,11=10,20;20,21=21,22;22,23=23,24;24,25=25"
